US07514470B2
1,1-Dimethylethyl 2-[(cyclopropylmethyl)(3,4-dicyanophenyl)amino]butanoate
Synthesized in a manner similar to example 1B using 4-[(cyclopropylmethyl)amino]-1,2-benzenedicarbonitrile and tert-butyl 2-bromobutanoate: MS (ES) m/z 340 (M+1).

reactant | 4-[(cyclopropylmethyl)amino]-1,2-benzenedicarbonitrile | C1(CC1)CNC=1C=C(C(=CC1)C#N)C#N | C12H11N3
reactant | tert-butyl 2-bromobutanoate | BrC(C(=O)OC(C)(C)C)CC | C8H15BrO2
product | 1,1-Dimethylethyl 2-[(cyclopropylmethyl)(3,4-dicyanophenyl)amino]butanoate | C1(CC1)CN(C(C(=O)OC(C)(C)C)CC)C1=CC(=C(C=C1)C#N)C#N | C20H25N3O2
